US20010047023A1
Preparation of 1-(3-Chloro4-Flurophenyl)-5-(4-Methylphenyl)-3-(Trifluoromethyl)Pyrazole.
15 gms ( 0.093 mole) of 3-chloro-4-fluorophenylhydrazine hydrochloride of Part A and 11 gms ( 0.048 mole) of 1-(4-Methylphenyl)-4,4,4-trifluorobutane - 1,3- dione of Part B as given in example 1 was refluxed in 100 ml glacial acetic acid for 36 hours and then cooled to below 15 deg C and filtered . The residue was washed with hot water till neutral pH. The crude product ( 17 gms) was recrystallized from Methanol to give 10 gms ( 58% yield) M.pt: 77 deg C . The purity was 99.8% by HPLC IR (KBr) cm−1 at 1500 (C═C), 1470 (—C=NH ) 1242 (CF3),1222(C-F), 1157 and 1128 (C-N), 808 (C-Cl)

reactant | 3-chloro-4-fluorophenylhydrazine hydrochloride | 0.093 mole, 15 gms | Cl.ClC=1C=C(C=CC1F)NN
reactant | 1-(4-Methylphenyl)-4,4,4-trifluorobutane - 1,3- dione | 0.048 mole, 11 gms | CC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C11H9F3O2
reactant | KBr | [K+].[Br-]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-(3-Chloro4-Flurophenyl)-5-(4-Methylphenyl)-3-(Trifluoromethyl)Pyrazole | 58% yield | ClC=1C=C(C=CC1F)N1N=C(C=C1C1=CC=C(C=C1)C)C(F)(F)F | C17H11ClF4N2
